US05576322
2-Hydroxyiminomethyl-4-(3,4-methylenedioxybenzyl)amino-6-chloroquinazoline
0.60 g of hydroxylamine hydrochloride and 3.0 ml of a 1N aqueous solution of sodium hydroxide were added to a solution of 1.00 g (2.93 mmol) of 2-formyl4-(3,4-methylenedioxybenzyl)amino-6-chloroquinazoline in 30 ml of ethanol. The obtained mixture was stirred at 60° C. for 30 minutes and cooled by allowing to stand. The crystal thus precipitated was recovered by filtration, washed with ethanol and n-hexane and air-dried to give 1.00 g of the title compound as a white crystal.

reactant | hydroxylamine hydrochloride | 0.60 g | Cl.NO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-formyl4-(3,4-methylenedioxybenzyl)amino-6-chloroquinazoline | 2.93 mmol, 1.00 g | C(=O)C1=NC2=CC=C(C=C2C(=N1)NCC1=CC2=C(C=C1)OCO2)Cl | C17H12ClN3O3
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-Hydroxyiminomethyl-4-(3,4-methylenedioxybenzyl)amino-6-chloroquinazoline | 1.00 g, yield(%); 96 | ON=CC1=NC2=CC=C(C=C2C(=N1)NCC1=CC2=C(C=C1)OCO2)Cl | C17H13ClN4O3
